US04957928
First 11.1 g (50 mmol) of 1,2,5,6-tetrahydropyridine-3-carboxylic acid methyl ester hydrobromide (guvacoline hydrobromide) and then 22.6 g (175 mmol) of N-ethyl-N,N-diisopropylamine are added to a solution of 11.45 g (50 mmol) of 2-bromomethylbenzo-1,4-dioxan (U.S. Pat. No. 2,366,102) in 100 ml of absolute dimethylformamide. The mixture is stirred for 16 hours at 50° and then concentrated by evaporation under a high vacuum. Water is added to the residue and extraction is carried out with diethyl ether. The organic phases are washed with water and extracted by shaking with 2N hydrochloric acid. The combined hydrochloric acid extracts are rendered alkaline, while cold, with sodium hydroxide solution (30% strength) and extracted with dichloromethane. The combined dichloromethane phases are dried over sodium sulphate and concentrated by evaporation in vacuo. 10.75 g (74.4%) of 1-(benzo-1,4-dioxan-2-ylmethyl)-1,2,5,6-tetrahydropyridine-3-carboxylic acid methyl ester are obtained in the form of a yellow oil. The 1-(benzo-1,4-dioxan-2-ylmethyl)-1,2,5,6-tetrahydropyridine- 3-carboxylic acid methyl ester hydrochloride produced therefrom using hydrochloric acid in diethyl ether crystallises from methanol/diethyl ether and decomposes at 215°-217°.

reactant | 1,2,5,6-tetrahydropyridine-3-carboxylic acid methyl ester hydrobromide | 50 mmol, 11.1 g | Br.COC(=O)C=1CNCCC1
reactant | N-ethyl-N,N-diisopropylamine | 175 mmol, 22.6 g | C(C)N(C(C)C)C(C)C | C8H19N
reactant | 2-bromomethylbenzo-1,4-dioxan | 50 mmol, 11.45 g | BrCC1COC2=C(O1)C=CC=C2 | C9H9BrO2
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | 1-(benzo-1,4-dioxan-2-ylmethyl)-1,2,5,6-tetrahydropyridine-3-carboxylic acid methyl ester | 10.75 g, 74.4% | COC(=O)C=1CN(CCC1)CC1COC2=C(O1)C=CC=C2 | C16H19NO4
